US07795273B2
Step 3.3: 6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid ethyl ester
Potassium carbonate and ethyl propiolate are added to a stirred suspension of 1-Amino-3-dimethylsulfamoyl-pyridinium mesitylenesulfonate in chloroform at room temperature. For more details, see literature: Yasumitsu Tamura, Yoshio Sumida, Yasuyoshi Miki and Masazumi Ikeda, J. Chem. Soc. Perkin 1, 1974, 406-409

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
reactant | 1-Amino-3-dimethylsulfamoyl-pyridinium mesitylenesulfonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)[O-])C.N[N+]1=CC(=CC=C1)S(N(C)C)(=O)=O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN2C1C=CC(=C2)S(N(C)C)(=O)=O | C12H15N3O4S
